US04394515
10,11-Dihydrodibenzo[b,f]thiepin-3-carboxylic Acid 5-oxide
520 Mg. methyl-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylate 5-oxide is stirred at 65° C. in a mixture of 20 cc. 20% aqueous sodium hydroxide and 20 cc. ethanol until a clear solution results (1 hour). The mixture is diluted with water, extracted with ether, then acidified with hydrochloric acid. The white precipitate is filtered and dried to yield 245 mg. of material which is recrystallized from methanol to yield 180 mg., m.p. 261°-265° C.

reactant | methyl-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylate 5-oxide | CC1=CC(=CC=2S(C3=C(CCC21)C=CC=C3)=O)C(=O)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 10,11-Dihydrodibenzo[b,f]thiepin-3-carboxylic Acid 5-oxide | C1=CC(=CC=2S(C3=C(CCC21)C=CC=C3)=O)C(=O)O | C15H12O3S
